US08865029B2
A suspension of 4-(4-(ethyl(2-hydroxyethyl)amino)phenyl)-2-(hydroxyimino)naphthalen-1(2H)-one (4.0 g, 11.89 mmol) in ethanol (100 ml) was treated with 1,3,3-trimethyl-2-methyleneindoline (2.68 g, 15.46 mmol) in one portion and heated to 100° C. in a sealed tube for 4 hrs. The mixture was then cooled to RT and left to stand overnight. The resulting suspension was evaporated in vacuo to approx 25 ml total volume, MeOH added (25 ml) and the mixture stored in the freezer for 3 hrs. After this time the product was collected by filtration and washed with a little methanol to give the product, 2-(ethyl(4-(1,3,3-trimethylspiro[indoline-2,2′-naphtho[1,2-b][1,4]oxazine]-6′yl)phenyl)amino)ethanol, as pale green fibres (4.15 g, 71%). Analysis of the product by 1H NMR gave a spectrum consistent with the structure.

reactant | 4-(4-(ethyl(2-hydroxyethyl)amino)phenyl)-2-(hydroxyimino)naphthalen-1(2H)-one | 11.89 mmol, 4.0 g | C(C)N(C1=CC=C(C=C1)C1=CC(C(C2=CC=CC=C12)=O)=NO)CCO | C20H20N2O3
reactant | 1,3,3-trimethyl-2-methyleneindoline | 15.46 mmol, 2.68 g | CN1C(C(C2=CC=CC=C12)(C)C)=C | C12H15N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(ethyl(4-(1,3,3-trimethylspiro[indoline-2,2′-naphtho[1,2-b][1,4]oxazine]-6′yl)phenyl)amino)ethanol | C(C)N(CCO)C1=CC=C(C=C1)C1=CC2=C(OC3(C=N2)N(C2=CC=CC=C2C3(C)C)C)C3=CC=CC=C13 | C32H33N3O2
